US05037825
32 g of [1-(4,4-dimethyl-6-thiochromanyl)ethyl]triphenylphosphonium bromide were suspended in 130 ml of tetrahydrofuran and treated at 0° C. with 37 ml of n-butyllithium (1.6 molar in hexane). After stirring at 0° C. for 45 minutes, a solution of 10 g of 4-(2-dimethylaminoethoxy)benzaldehyde in 60 ml of tetrahydrofuran was added dropwise to the orange reaction mixture. The mixture was stirred at room temperature for an additional 1 hour, poured on to ice/water and extracted with ether. The organic phases were washed with water, dried and evaporated. After filtration of the crude product over neutral Alox (eluting agent ether) and recrystallization from hexane/ether, there were obtained 8.7 g of 2-[p-[(E)-2-(3,4-dihydro-4,4-dimethyl-2H-1-benzothiopyran-6-yl)propenyl]phenoxy]-N,N-dimethylethylamine, melting point 81°-82° C.

reactant | [1-(4,4-dimethyl-6-thiochromanyl)ethyl]triphenylphosphonium bromide | 32 g | [Br-].CC1(CCSC2=CC=C(C=C12)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | n-butyllithium | 1.6 molar, 37 ml | C(CCC)[Li]
reactant | 4-(2-dimethylaminoethoxy)benzaldehyde | 10 g | CN(CCOC1=CC=C(C=O)C=C1)C | C11H15NO2
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-[p-[(E)-2-(3,4-dihydro-4,4-dimethyl-2H-1-benzothiopyran-6-yl)propenyl]phenoxy]-N,N-dimethylethylamine | 8.7 g | CC1(CCSC2=C1C=C(C=C2)/C(=C/C2=CC=C(OCCN(C)C)C=C2)/C)C | C24H31NOS
